US09127232B2
Preparation of triethyl citrate octanoate
The same procedure was used as for preparation of triethyl citrate butyrate but using octyl chloride.

reactant | triethyl citrate butyrate | C(CCC)(=O)O.C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC
reactant | octyl chloride | C(CCCCCCC)Cl | C8H17Cl
product | triethyl citrate octanoate | C(CCCCCCC)(=O)O.C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC | InChI=1S/C12H20O7.C8H16O2/c1-4-17-9(13)7-12(16,11(15)19-6-3)8-10(14)18-5-2;1-2-3-4-5-6-7-8(9)10/h16H,4-8H2,1-3H3;2-7H2,1H3,(H,9,10)
